US06090825
2-Methoxy-5-(2-{4-[5-phenyl-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidin-1-yl}-ethyl)-benzenesulfonamide
To 4-[5-phenyl-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidine (0.750 g), prepared as in Intermediate 5, in dioxane is added 5-(2-chloro-ethyl)-2-methoxy-benzenesulfonamide (0.716 g), prepared as in Intermediate 1, Nal (0.429 g) and DIEA (1.15 ml). After heating at 100° C. for 18 hours, the reaction mixture is partitioned between EtOAc and dilute NaHCO3 solution. The organic phase is washed with saturated brine, dried (NaSO4) and concentrated. The residue is dissolved in CHCl3 (20 mL) and preadsorbed onto silica gel. Purification by flash chromatography on silica gel using a MeOH-EtOAc gradient (2-10%), followed by radial chromotography using a MeOH-CH2Cl2 gradient (1-5%) and crystallization from CH2Cl2 -EtOAc affords the title compound as a white solid.

reactant | 4-[5-phenyl-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidine | 0.750 g | C1(=CC=CC=C1)C1=C(N=C(O1)C1CCNCC1)COCC(F)(F)F | C17H19F3N2O2
reactant | 5-(2-chloro-ethyl)-2-methoxy-benzenesulfonamide | 0.716 g | ClCCC=1C=CC(=C(C1)S(=O)(=O)N)OC | C9H12ClNO3S
reactant | Nal | 0.429 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | DIEA | 1.15 ml | CCN(C(C)C)C(C)C | C8H19N
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-Methoxy-5-(2-{4-[5-phenyl-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidin-1-yl}-ethyl)-benzenesulfonamide | COC1=C(C=C(C=C1)CCN1CCC(CC1)C=1OC(=C(N1)COCC(F)(F)F)C1=CC=CC=C1)S(=O)(=O)N | C26H30F3N3O5S
